US05071841
Potassium thioacetate (CH3COSK, 8.31 g) was added in small portions to a solution of ethyl 2-chloro-2-(3,4-dimethylphenyl)acetate (15 g) in DMF (80 ml). The mixture was stirred at room temperature for 2 hours, at the end of which time it was poured into water and extracted with ethyl acetate. The ethyl acetate layer was washed with water, dried (MgSO4) and the solvent was distilled off to give ethyl 2-acetylthio-2-(3,4-dimethylphenyl)acetate (16.5 g, 94%) as an oil.

reactant | Potassium thioacetate | 8.31 g | C(C)(=S)[O-].[K+]
reactant | ethyl 2-chloro-2-(3,4-dimethylphenyl)acetate | 15 g | ClC(C(=O)OCC)C1=CC(=C(C=C1)C)C | C12H15ClO2
reactant | water | O | H2O
solvent | DMF | 80 ml | CN(C)C=O | C3H7NO
product | ethyl 2-acetylthio-2-(3,4-dimethylphenyl)acetate | 16.5 g, 94% | C(C)(=O)SC(C(=O)OCC)C1=CC(=C(C=C1)C)C | C14H18O3S
